US08912221B2
A mixture of 5-(2-bromo-4-chloro-6-fluoro-phenyl)-2H-tetrazole (4.15 g, 14.95 mmol), K2CO3 (3.1 g, 22.43 mmol) and iodomethane (1.3 ml, 20.94 mmol) in DMF (30 ml) was stirred at 25° C. for 3 h. The mixture was partitioned between EtOAc (80 ml) and water (60 ml), the organic layer was separated, washed with water and brine, dried with Na2SO4 and concentrated. The remaining residue was purified by chromatography (silica gel; hexane/EtOAc 100:0-90:10) to obtain 5-(2-bromo-4-chloro-6-fluoro-phenyl)-1-methyl-1H-tetrazole as pale yellow solid (1.5 g, 35%) and the title compound as reddish liquid (1.7 g, 39%). MS: 291.0 [M+H]+.

reactant | 5-(2-bromo-4-chloro-6-fluoro-phenyl)-2H-tetrazole | 14.95 mmol, 4.15 g | BrC1=C(C(=CC(=C1)Cl)F)C=1N=NNN1 | C7H3BrClFN4
reactant | K2CO3 | 22.43 mmol, 3.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 20.94 mmol, 1.3 ml | IC | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(2-bromo-4-chloro-6-fluoro-phenyl)-1-methyl-1H-tetrazole | 1.5 g, 35% | BrC1=C(C(=CC(=C1)Cl)F)C1=NN=NN1C | C8H5BrClFN4
